US09303040B2
To a solution of tert-butyl (S)-2-(4-chlorophenyl)-3-(4-((S)-5-methyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)-3-oxopropyl(isopropyl)carbamate (93 mg, 0.17 mmol) in DCM (10 mL) was added HCl (4M, 2 mL). The reaction mixture was stirred at room temperature for 6 hours, and then the solvent was removed to afford (S)-2-(4-chlorophenyl)-3-(isopropylamino)-1-(4-((S)-5-methyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)propan-1-one dihydrochloride (76 mg, 100%.) LCMS (APCI+) [M+H]+ 460 and 462.

reactant | tert-butyl (S)-2-(4-chlorophenyl)-3-(4-((S)-5-methyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)-3-oxopropyl(isopropyl)carbamate | 0.17 mmol, 93 mg | ClC1=CC=C(C=C1)[C@@H](CN(C(OC(C)(C)C)=O)C(C)C)C(=O)N1CCN(CC1)C=1C2=C(N=CN1)CS[C@H]2C | C28H38ClN5O3S
reactant | HCl | 4M, 2 mL | Cl | ClH
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-(4-chlorophenyl)-3-(isopropylamino)-1-(4-((S)-5-methyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)propan-1-one dihydrochloride | 76 mg, 100% | Cl.Cl.ClC1=CC=C(C=C1)[C@H](C(=O)N1CCN(CC1)C=1C2=C(N=CN1)CS[C@H]2C)CNC(C)C | InChI=1S/C23H30ClN5OS.2ClH/c1-15(2)25-12-19(17-4-6-18(24)7-5-17)23(30)29-10-8-28(9-11-29)22-21-16(3)31-13-20(21)26-14-27-22;;/h4-7,14-16,19,25H,8-13H2,1-3H3;2*1H/t16-,19+;;/m0../s1
